US07629358B2
Preparation 58: ethyl[3-(2-aminoethyl)phenyl]acetate
Triphenylphosphine (3.88 g, 23.3 mmol) was added in one portion to a stirred solution of ethyl[3-(2-azidoethyl)phenyl]acetate (Preparation 57) (3.88 g, 16.6 mmol) in tetrahydrofuran (100 ml) at room temperature under nitrogen. The reaction was stirred for 18 hours and water (5 ml) added and the reaction heated at 50° C. for 4 hours, the reaction was cooled to room temperature and the solvent removed in vacuo. The residue was dissolved in saturated aqueous sodium hydrogen carbonate (40 ml) and the aqueous extracted with dichloromethane (3×50 ml). The combined organics were dried (sodium sulfate), the solvent removed in vacuo and the residue purified by flash column chromatography on silica gel eluting with dichlromethane:methanol (95:5, by volume) to give the title compound as a colourless oil (3.11 g). 1H NMR (400 MHz, CDCl3): δ 7.26-7.22 (1H, t), 7.13-7.08 (3H, t), 4.16-4.11 (2H, m), 3.58 (2H, s), 2.96-2.93 (2H, t), 2.74-2.71 (2H, t), 1.25-1.22 (3H, t) ppm. LRMS (electrospray): M/Z [M+H]+ 208, [M+NA]+ 230, [M−H]− 206.

reactant | Triphenylphosphine | 23.3 mmol, 3.88 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | ethyl[3-(2-azidoethyl)phenyl]acetate | 16.6 mmol, 3.88 g | C(C)OC(CC1=CC(=CC=C1)CCN=[N+]=[N-])=O | C12H15N3O2
reactant | water | 5 ml | O | H2O
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | ethyl[3-(2-aminoethyl)phenyl]acetate | 3.11 g | C(C)OC(CC1=CC(=CC=C1)CCN)=O | C12H17NO2
